US06656956B2
d) 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-naphth-1-ylmethylamino-benzimidazole
1.0 g (3.6 mmol) of 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole and 1-naphthylaldehyde (0.33 mL, 3.6 mmol) are combined with 0.22 mL acetic acid in 25 mL of dichloromethane at ambient temperature and Na[HB(Oac)3] is added thereto with stirring. The mixture is stirred for 1 h at ambient temperature, covered with water, carefully acidified with concentrated aqueous hydrochloric acid and then made alkaline with 4N NaOH solution. The organic phase is separated off, dried and evaporated down. The product is chromatographed over silica gel and optionally crystallised from diethyl ether.

reactant | 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole | 3.6 mmol, 1.0 g | NC1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1 | C17H16N4
reactant | 1-naphthylaldehyde | 3.6 mmol, 0.33 mL | C1=CC=C2C(=C1)C=CC=C2C=O | C11H8O
reactant | hydrochloric acid | Cl | ClH
reactant | NaOH | 4N | [OH-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetic acid | 0.22 mL | C(C)(=O)O | C2H4O2
product | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-naphth-1-ylmethylamino-benzimidazole | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NCC2=CC=CC1=CC=CC=C21 | C28H24N4
